US07626021B2
To a solution of 5-iodo-isophthalic acid monomethyl ester (3.00 g, 9.8 mmol) in N,N-Dimethylformamide (80 ml) was added dimethyl amine(2M solution in Tetrahydrofuran, 9.8 m, 79.61 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate 3.72 g, 9.8 mmol), and finally di-iso-propyl ethyl amine (5.1 ml, 29.41 mmol), this mixture was stirred at room temperature over night. The solvent was stripped under reduced pressure and the crude purifies by silica gel chromatography to give afford 5-Iodo-N,N-dimethyl-isophthalamic acid methyl ester (2.46 g, 75%). MS: m/z 333.1 (M+H+).

reactant | 5-iodo-isophthalic acid monomethyl ester | 9.8 mmol, 3.00 g | COC(C1=CC(C(=O)O)=CC(=C1)I)=O | C9H7IO4
reactant | dimethyl amine | 79.61 mmol, 2M | CNC | C2H7N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 9.8 mmol, 3.72 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | di-iso-propyl ethyl amine | 29.41 mmol, 5.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-Dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 5-Iodo-N,N-dimethyl-isophthalamic acid methyl ester | 2.46 g, 75% | COC(C1=CC(C(=O)N(C)C)=CC(=C1)I)=O | C11H12INO3
